US06103459
The compound 1,2-di(2,2,2-trifluoroethoxy)ethanediimine (1.2 g, 5 mmol) was placed into a 50 mL Schlenk flask and the flask was flushed with nitrogen. Approximately 20 mL anhydrous diethyl ether was added, and the solution was cooled to approximately -70° to -80° C. (dry ice/isopropanol). Ten mmol (4.9 mL, 2.03M) n-butyllithium/hexane was then added dropwise via syringe; the solution was stirred at -78° C. for approximately 30 minutes. A solution of 1.35 g (5.0 mmol) of phenylantimony dichloride [(C6H5)SbCl2 ] in 25 mL of ether was then added dropwise via syringe. The reaction mixture was allowed to warm to room temperature while stirring. After stirring at room temperature for approximately 1-2 hours, the mixture was filtered through a fritted funnel, and the filtrate evaporated in vacuo. The solid residue was sublimed (1 torr, room temperature) to yield the white crystalline product 2-phenyl-4,5-di(2,2,2-trifluoroethoxy)-1,3,2-diazastibole in 45% yield (1.01 g, 2.25 mmol). 13C[1H]NMR (δ; CD2Cl2) 156.0 ppm (>C=N--; s), 152.2, 132.2, 131.5, and 129.3 ppm (phenyl C), 124.8 ppm (--CF3, t, J1 =278.0 Hz), 63.7 ppm (q, J2 =34.9Hz). Elemental analysis was carried out: calcd (found) for C12H9N2O2F6Sb: C, 32.10% (32.17%), H, 2.02% (2.09%), N, 6.24% (6.31%), F, 25.39% (25.43%), Sb 27.12% (27.20%).

reactant | 1,2-di(2,2,2-trifluoroethoxy)ethanediimine | 5 mmol, 1.2 g | FC(COC(C(=N)OCC(F)(F)F)=N)(F)F | C6H6F6N2O2
reactant | n-butyllithium hexane | Ten mmol, 2.03M, 4.9 mL | C(CCC)[Li].CCCCCC
reactant | phenylantimony dichloride | 5.0 mmol, 1.35 g | C1(=CC=CC=C1)[Sb](Cl)Cl
solvent | ether | 25 mL | CCOCC | C4H10O
product | 2-phenyl-4,5-di(2,2,2-trifluoroethoxy)-1,3,2-diazastibole | 45% yield | C1(=CC=CC=C1)[Sb]1N=C(C(=N1)OCC(F)(F)F)OCC(F)(F)F | InChI=1S/C6H4F6N2O2.C6H5.Sb/c7-5(8,9)1-15-3(13)4(14)16-2-6(10,11)12;1-2-4-6-5-3-1;/h1-2H2;1-5H;/q-2;;+2
